US09289430B2
5-chloro-N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)-2-nitrobenzamide
Into a 100-mL round bottom flask, was placed a solution of 1-(3,4-dimethylphenyl)-1H-pyrazol-3-amine (408 mg, 2.18 mmol, 1.00 equiv) in dichloromethane (10 mL), pyridine (518 mg, 6.56 mmol, 3.00 equiv), and 5-chloro-2-nitrobenzoyl chloride (575 mg, 2.61 mmol, 1.00 equiv). The resulting solution was stirred for 2 h at room temperature. The resulting mixture was concentrated under vacuum. The solution was adjusted to pH 7 with hydrochloric acid (1 mol/L). The resulting solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined dried over anhydrous sodium sulfate, and concentrated under vacuum. This resulted in 600 mg (59%) of 5-chloro-N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)-2-nitrobenzamide as a yellow solid.

reactant | 1-(3,4-dimethylphenyl)-1H-pyrazol-3-amine | 2.18 mmol, 408 mg, 1.00 equiv | CC=1C=C(C=CC1C)N1N=C(C=C1)N | C11H13N3
reactant | pyridine | 6.56 mmol, 518 mg, 3.00 equiv | N1=CC=CC=C1 | C5H5N
reactant | 5-chloro-2-nitrobenzoyl chloride | 2.61 mmol, 575 mg, 1.00 equiv | ClC=1C=CC(=C(C(=O)Cl)C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5-chloro-N-(1-(3,4-dimethylphenyl)-1H-pyrazol-3-yl)-2-nitrobenzamide | ClC=1C=CC(=C(C(=O)NC2=NN(C=C2)C2=CC(=C(C=C2)C)C)C1)[N+](=O)[O-] | C18H15ClN4O3
